US09370515B2
Preparation of 6-chloro-3-(7-methoxythieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazine
To a solution of 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol (38 mg, 0.126 mmol, 1.0 equiv) in DCM (3.0 mL) and MeOH (1.0 mL) was added DIPEA (0.188 mmol, 1.5 equiv) then TMSCHN2 (94 microliter, 0.188 mmol, 1.5 equiv). The reaction mixture was stirred at rt for 3 h, then quenched with water and extracted with ethyl acetate. Purification by column chromatography using 20% ethyl acetate in hexanes elution gave 20 mg of the yellow solid, 50%.

reactant | 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol | 0.126 mmol, 38 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)O | C13H7ClN4OS
reactant | DIPEA | 0.188 mmol, 1.5 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | TMSCHN2 | 0.188 mmol, 94 microliter, 1.5 equiv | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1.0 mL | CO | CH4O
product | 6-chloro-3-(7-methoxythieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazine | 20 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)OC | C14H9ClN4OS
